US04093446
a. Sodium 5-(2-Chloro-4-trifluoromethylphenoxy)-2-nitrobenzoate
5-(2-Chloro-4-trifluoromethylphenoxy)-2-nitrobenzoic acid (1.7 g, 0.0047 mole) is dissolved in methanol (25 ml) and sodium hydroxide (4.7 ml of 1 N NaOH in methanol, 0.0047 mole) is added rapidly. The solvent is then removed in vacuo to give 1.9 g of product that decomposes at 217° C.

reactant | 5-(2-Chloro-4-trifluoromethylphenoxy)-2-nitrobenzoic acid | 0.0047 mole, 1.7 g | ClC1=C(OC=2C=CC(=C(C(=O)O)C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C14H7ClF3NO5
reactant | sodium hydroxide | 0.0047 mole, 1 N, 4.7 ml | [OH-].[Na+]
solvent | methanol | 25 ml | CO | CH4O
product | Sodium 5-(2-Chloro-4-trifluoromethylphenoxy)-2-nitrobenzoate | 1.9 g | ClC1=C(OC=2C=CC(=C(C(=O)[O-])C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F.[Na+] | InChI=1S/C14H7ClF3NO5.Na/c15-10-5-7(14(16,17)18)1-4-12(10)24-8-2-3-11(19(22)23)9(6-8)13(20)21;/h1-6H,(H,20,21);/q;+1/p-1
